US06982348B2
To a solution of 3-(2,2,3,3-tetrafluoropropyloxy)toluene (7.0 g, 31.5 mmol) in carbon tetrachloride (100 ml) were added N-bromosuccinimide (6.17 g, 34.7 mmol) and 2,2′-azobis(isobutyronitrile) (517 mg, 3.15 mmol) and the mixture was heated under reflux overnight. The insoluble material was filtered using celite and the filtrate was concentrated to prepare a bromo form. To a solution of ethyl 3-(4-fluorophenyl)-3-oxopropionate (5.96 g, 28.4 mmol) in 1,2-dimethoxyethane (60 ml) was added sodium hydride (60% in oil, 1.13 g, 28.4 mmol) under ice-cooling and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of the bromo form synthesized above in 1,2-dimethoxyethane (20 ml) and the reaction solution was stirred at room temperature for 1 hr. The reaction solution was poured into water (200 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) and recrystallized from diisopropyl ether-hexane to give ethyl 3-(4-fluorophenyl)-3-oxo-2-((3-(2,2,3,3-tetrafluoropropyloxy)phenyl)methyl)propionate (5.63 g, 46%).

reactant | 3-(2,2,3,3-tetrafluoropropyloxy)toluene | 31.5 mmol, 7.0 g | FC(COC=1C=C(C=CC1)C)(C(F)F)F | C10H10F4O
reactant | N-bromosuccinimide | 34.7 mmol, 6.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 3.15 mmol, 517 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 28.4 mmol, 5.96 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | sodium hydride | 28.4 mmol, 1.13 g | [H-].[Na+]
reactant | bromo form | C(Br)(Br)Br | CHBr3
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | 1,2-dimethoxyethane | 60 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | 200 ml | O | H2O
product | ethyl 3-(4-fluorophenyl)-3-oxo-2-((3-(2,2,3,3-tetrafluoropropyloxy)phenyl)methyl)propionate | 5.63 g, 46% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OCC(C(F)F)(F)F)=O | C21H19F5O4
